US04743601
N-(2-hydroxy-2-phenylethyl)-4-quinolinamine
A mixture of 7-chloro-N-(2-hydroxy-2-phenylethyl)-4-quinolinamine (10 g), 0.8 g of palladium on powdered charcoal (10%), 5 ml of acetic acid, 7 g of sodium acetate.3H2O and 200 ml of methanol was hydrogenated at room temperature with shaking at 30-50 psi until completion of hydrogen uptake. The catalyst was filtered and the solvent evaporated. The oil residue was dissolved in 20 ml of water and the solution made alkaline (pH=10) with and NaOH solution. The crystalline compound was filtered and recrystallized from isopropanol. The yield was 7.5 g, mp 289°-290° C.

reactant | 7-chloro-N-(2-hydroxy-2-phenylethyl)-4-quinolinamine | 10 g | ClC1=CC=C2C(=CC=NC2=C1)NCC(C1=CC=CC=C1)O | C17H15ClN2O
reactant | charcoal | C | CH4
reactant | sodium acetate | 7 g | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium | 0.8 g | [Pd] | Pd
solvent | methanol | 200 ml | CO | CH4O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | N-(2-hydroxy-2-phenylethyl)-4-quinolinamine | OC(CNC1=CC=NC2=CC=CC=C12)C1=CC=CC=C1 | C17H16N2O
